US05648373
2,4,5-Triphenyl-1-(7-bromoheptyl)imidazole (0.95 g) was dissolved in hot ethanol (10 ml) and a solution of sodium sulphite (0.38 g) in hot water (5 ml) was added. The white suspension was heated at reflux temperature for 20 hours then evaporated to dryness. The mixture was taken up in dichloromethane, filtered and the filtrate evaporated to an oil which was chromatographed on silica gel (dichloromethane/methanol). The resulting oil was dissolved in methanol and excess ether added giving an oil which slowly solidified to give sodium 7-(2,4,5-tri-phenylimidazol-1-yl)heptane-sulphonate (0.32 g; 32%) as a white solid, m.p. 310° C.

reactant | 2,4,5-Triphenyl-1-(7-bromoheptyl)imidazole | 0.95 g | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCBr | C28H29BrN2
reactant | sodium sulphite | 0.38 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | sodium 7-(2,4,5-tri-phenylimidazol-1-yl)heptane-sulphonate | 0.32 g, 32% | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCS(=O)(=O)[O-].[Na+] | InChI=1S/C28H30N2O3S.Na/c31-34(32,33)22-14-3-1-2-13-21-30-27(24-17-9-5-10-18-24)26(23-15-7-4-8-16-23)29-28(30)25-19-11-6-12-20-25;/h4-12,15-20H,1-3,13-14,21-22H2,(H,31,32,33);/q;+1/p-1
